US07566736B2
1-Methyl-3-(4-nitrophenyl)-1H-indole-2-carboxamide
0.047 g of sodium hydride and then 73 μl of methane iodide are added to a solution of 0.3 g of 3-(4-nitro-phenyl)-1H-indole-2-carboxamide in 8 ml of anhydrous dimethylformamide under argon. The reaction mixture is stirred at ambient temperature for 2 hours and 45 ml of water are added. The solid formed is filtered off, washed with 3 times 15 ml of water, and filter-dried. After drying under vacuum, 0.22 g of 1-methyl-3-(4-nitrophenyl)-1H-indole-2-carboxamide are obtained, the characteristics of which are as follows:

reactant | sodium hydride | 0.047 g | [H-].[Na+]
reactant | methane iodide | 73 μl | [I-].C
reactant | 3-(4-nitro-phenyl)-1H-indole-2-carboxamide | 0.3 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=C(NC2=CC=CC=C12)C(=O)N | C15H11N3O3
reactant | water | 45 ml | O | H2O
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | 1-Methyl-3-(4-nitrophenyl)-1H-indole-2-carboxamide | CN1C(=C(C2=CC=CC=C12)C1=CC=C(C=C1)[N+](=O)[O-])C(=O)N | C16H13N3O3
